US05968958
Step 1: 5-Chloro-4-nitro-2-methylbenzonitrile
To a suspension of 5-chloro-4-nitro-2-methylaniline (40.0 g, 0.21 mol) in acetone (140 mL) and H2O (150 mL) at 0° C. was added concentrated aqueous HCl (45 mL). The mixture was well stirred and a solution of NaNO2 (18.0 g, 0.26 mol) in H2O (60 mL) was added dropwise over a period of 15 min. The mixture was further stirred for 20 min. and then added portionwise to a vigorously stirred mixture of CuCN (30.0 g, 0.34 mol) and NaCN (44.0 g, 0.90 mol) in H2O (200 mL):EtOAc (100 mL). After stirring at room temperature for 30 min., the mixture was diluted with H2O and extracted with EtOAc. The EtOAc extract was washed successively with 1N NaOH and brine, dried over anhydrous MgSO4 and concentrated. The residue was suspended in hexanes:Et2O (1:1), stirred for 15 min., and filtered to provide the title compound (32 g, 76%) as yellow solid.

reactant | 5-chloro-4-nitro-2-methylaniline | 0.21 mol, 40.0 g | ClC=1C(=CC(=C(N)C1)C)[N+](=O)[O-] | C7H7ClN2O2
reactant | HCl | 45 mL | Cl | ClH
reactant | NaNO2 | 0.26 mol, 18.0 g | N(=O)[O-].[Na+]
reactant | CuCN | 0.34 mol, 30.0 g | C(#N)[Cu]
reactant | NaCN | 0.90 mol, 44.0 g | [C-]#N.[Na+]
solvent | acetone | 140 mL | CC(=O)C | C3H6O
solvent | H2O | 150 mL | O | H2O
solvent | H2O | 60 mL | O | H2O
solvent | H2O | 200 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5-Chloro-4-nitro-2-methylbenzonitrile | 32 g, 76% | ClC=1C(=CC(=C(C#N)C1)C)[N+](=O)[O-] | C8H5ClN2O2
